* NMOS Id–Vgs sweep (Sky130)
.options scale=1.0
.options temp=-196.15

.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k

* Gate bias (fixed)
VGS GATE 0 1.11
* drain sweep source
VDS DRAIN 0 0

* MOSFET
XM1 DRAIN GATE 0 0 sky130_fd_pr__nfet_01v8_lvt w=1.6u l=0.15u nf=1 ad=0.384p as=0.384p pd=2.08u ps=2.08u



.control
run
set filetype=ascii
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta

*running montecarlo sim, 1 param at at a time
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta > ogparam.txt
set raw_array = ( `cat ogparam.txt` )
  
  define agauss(mean, sigma) (mean + sigma * sgauss(0))  
  set nom_vth0 = $raw_array[11]
  set nom_u0 = $raw_array[13]
  set nom_rdsw = $raw_array[15]
  set nom_nfactor = $raw_array[17]
  set nom_vsat = $raw_array[19]
  set nom_eta0 = $raw_array[21]
  set nom_delta = $raw_array[23]
*showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta 
*echo "$nom_vth0"
*controls
  set mc_vth0 = 1
  set mc_u0 = 0
  set mc_rdsw = 0
  set mc_nfactor = 0
  set mc_vsat = 0
  set mc_eta0 = 0
  set mc_delta = 0
*sigmas
  set s_vth0 = 0.04
  set s_u0 = 0.005
  set s_rdsw = 5.0
  set s_nfactor = 0.5
  set s_vsat = 5000.0
  set s_eta0 = 0.01
  set s_delta = 0.01
  echo "p0 done"
 
  set mc_runs = 5
  
  foreach idx 0 1 2 3 4
    echo "========================================="
    echo " MONTE CARLO RUN: $idx "
    echo "========================================="
    let v_vth0 = $nom_vth0
    let v_u0 = $nom_u0
    let v_rdsw = $nom_rdsw
    let v_nfactor = $nom_nfactor
    let v_vsat = $nom_vsat
    let v_eta0 = $nom_eta0
    let v_delta = $nom_delta
    echo "p1 done"
    if ($mc_vth0)
      let v_vth0 = agauss($nom_vth0, $s_vth0)
    endif
    if ($mc_u0)
      let v_u0 = agauss($nom_u0, $s_u0)
    endif
    if ($mc_rdsw)
      let v_rdsw = agauss($nom_rdsw, $s_rdsw)
    endif
    if ($mc_nfactor)
      let v_nfactor = agauss($nom_nfactor, $s_nfactor)
    endif
    if ($mc_vsat)
      let v_vsat = agauss($nom_vsat, $s_vsat)
    endif
    if ($mc_eta0)
      let v_eta0 = agauss($nom_eta0, $s_eta0)
    endif
    if ($mc_delta)
      let v_delta = agauss($nom_delta, $s_delta)
    endif
    echo "p2 done"
    *showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta 
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[vth0]    = $&v_vth0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[u0]      = $&v_u0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[rdsw]    = $&v_rdsw
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[nfactor] = $&v_nfactor
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[vsat]    = $&v_vsat
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[eta0]    = $&v_eta0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[delta]   = $&v_delta
    echo "p3 done"
    showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta
    dc VDS 0 1.8 0.01

    let out_vth0    = v_vth0*(v(drain)*0 + 1)
    let out_u0      = v_u0 * (v(DRAIN)*0 + 1)
    let out_rdsw    = v_rdsw * (v(DRAIN)*0 + 1)
    let out_nfactor = v_nfactor * (v(DRAIN)*0 + 1)
    let out_vsat    = v_vsat * (v(DRAIN)*0 + 1)
    let out_eta0    = v_eta0 * (v(DRAIN)*0 + 1)
    let out_delta   = v_delta * (v(DRAIN)*0 + 1)
    let run_num     = $idx * (v(DRAIN)*0 + 1)
    echo "p4 done"



   
    set wr_vecnames
    set wr_singlescale

  
    set raw_file = "sim_data_vd/{$idx}_mosfetVDS_MC_all.dat"
    wrdata $raw_file run_num v(drain) i(vds) out_vth0 out_u0 out_rdsw out_nfactor out_vsat out_eta0
  
    

    
  end


quit
.endc

.end
